US07939669B2
a 500 mL 2-neck round-bottomed flask was equipped with a reflux condenser and replaced by nitrogen. 70 mL of THF that was dried with 0.11 mol of Mg metal was added to the above flask and then, 0.10 mol of 1-bromo-4-(1,1,1,3,3,3-hexafluoropropane-2-yl)benzene was added in a dropwise fashion. The reaction was significantly exodermic and thus a cooling bath was equipped to reduce the temperature inside the reactor less than 50° C. It was agitated for 2 hours at room temperature, 0.11 mol of zinc chloride was added with 100 mL of THF, and further agitated for 2 hours to obtain a slurry-phase reaction mixture. Another flask was replaced by nitrogen and then 0.10 mol of 4-chlorobenzothiazole derivative, 0.10 mol of Pd, and 3 mol % of Pd(PPh3)4 were dissolved in 100 mL of THF. The prepared solution was added to the reaction mixture and then agitated 60° C. for 24 hours. After the reaction is complete, the resulting product was placed on a silica gel column to remove an inorganic slurry, and then a THF solution was concentrated under vacuum to obtain 4-(4-(1,1,1,3,3,3-hexafluoropropane-2-yl)phenyl)benzo[d]thiazole using column chromatography at a yield of 91%.

reactant | 1-bromo-4-(1,1,1,3,3,3-hexafluoropropane-2-yl)benzene | 0.10 mol | BrC1=CC=C(C=C1)C(C(F)(F)F)C(F)(F)F | C9H5BrF6
reactant | 4-chlorobenzothiazole | 0.10 mol | ClC1=CC=CC2=C1N=CS2 | C7H4ClNS
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | zinc chloride | 0.11 mol | [Cl-].[Zn+2].[Cl-]
catalyst | Pd | 0.10 mol | [Pd] | Pd
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 4-(4-(1,1,1,3,3,3-hexafluoropropane-2-yl)phenyl)benzo[d]thiazole | yield of 91% | FC(C(C(F)(F)F)C1=CC=C(C=C1)C1=CC=CC2=C1N=CS2)(F)F | C16H9F6NS
